US08980926B2
2-({4-[3-(trifluoromethyl)diaziridin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]aniline (16)
2-amino-N-methoxy-N-methyl-5-[2-(trimethylsilyl)ethynyl]benzamide (403 mg, 1.5 mmol, 1 eq.) and 3-(4-bromophenyl)-3-(trifluoromethyl)-1,2-bis(trimethylsilyl)diaziridine (synthesized by a 5-step process: Bender et al., 2007, 599 mg, 1.5 mmol, 1 eq.) were added together in a round-bottom flask and purged with nitrogen. THF was added, and the reaction was stirred at room temperature until all solids dissolved. The reaction was then cooled to −80° C. in a diethyl ether/dry ice bath, and 2.5 M n-butyllithium in hexanes (1.0 mL, 2.6 mmol, 1.8 eq.) was added, causing the reaction to turn a dark red color. The reaction was stirred at −80° C. for 2 hours and then quenched with saturated ammonium chloride solution (20 mL). The quenched reaction was extracted three times with ethyl acetate (50 mL each). The organic layer was then dried over sodium sulfate, and the solvent was evaporated. Purification on silica column (hexanes/ethyl acetate, 3:1→1:1) resulted in 342 mg (58%) of the title compound as a yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.69 (dd, J=8.2, 37.0, 4H, Ar—H), 7.50 (d, J=1.8, 1H, Ar—H), 7.37 (dd, J=1.9, 8.6, 1H, Ar—H), 6.65 (d, J=8.6, 1H, Ar—H), 6.32 (s, 2H, NH2), 2.88 (d, J=8.6, 1H, CNH), 2.32 (d, J=8.8, 1H, CNH), 0.18 (s, 9H, Si(CH3)3). 13C NMR (126 MHz, CDCl3) δ 197.58 (CO), 151.25 (C—Ar), 141.43 (C—Ar), 138.23 (C—Ar), 138.06 (C—Ar), 134.66 (C—Ar), 129.57 (C—Ar), 128.37 (q, C—Ar, J=0.57), 123.55 (q, J=278.40, CF3), 117.35 (C—Ar), 117.19 (C—Ar), 110.28 (C—Ar), 104.90 (CSi(CH3)3), 92.18 (CCSi(CH3)3), 58.05 (q, J=36.3, C(NH)2), 0.25 (Si(CH3)3). Exact Mass, 403.13. 402.1046 [M−H]−, 404.1982 [M+H]+.

reactant | 2-amino-N-methoxy-N-methyl-5-[2-(trimethylsilyl)ethynyl]benzamide | 1.5 mmol, 403 mg, 1 eq. | NC1=C(C(=O)N(C)OC)C=C(C=C1)C#C[Si](C)(C)C | C14H20N2O2Si
reactant | 3-(4-bromophenyl)-3-(trifluoromethyl)-1,2-bis(trimethylsilyl)diaziridine | BrC1=CC=C(C=C1)C1(N(N1[Si](C)(C)C)[Si](C)(C)C)C(F)(F)F | C14H22BrF3N2Si2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
product | 2-({4-[3-(trifluoromethyl)diaziridin-3-yl]phenyl}carbonyl)-4-[2-(trimethylsilyl)ethynyl]aniline | 342 mg, 58% | FC(C1(NN1)C1=CC=C(C=C1)C(=O)C1=C(N)C=CC(=C1)C#C[Si](C)(C)C)(F)F | C20H20F3N3OSi
